* d:\esim\2bitparity\2bitparity.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
* u1  net-_sc10-pad3_ net-_sc2-pad2_ net-_sc5-pad2_ net-_sc4-pad2_ net-_sc9-pad2_ net-_sc12-pad2_ net-_sc13-pad1_ net-_sc1-pad2_ port
* s c m o d e
xsc3 net-_sc1-pad1_ gnd net-_sc10-pad3_ ? sky130_fd_pr__pfet_01v8 W = 5.4 L = 0.18
xsc7 net-_sc6-pad1_ gnd net-_sc10-pad3_ ? sky130_fd_pr__pfet_01v8 W = 5.4 L = 0.18
xsc10 net-_sc10-pad1_ gnd net-_sc10-pad3_ ? sky130_fd_pr__pfet_01v8 W = 5.4 L = 0.18
xsc13 net-_sc13-pad1_ gnd net-_sc10-pad3_ ? sky130_fd_pr__pfet_01v8 W = 5.4 L = 0.18
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ ? sky130_fd_pr__nfet_01v8 W = 5.4 L = 0.18
xsc2 net-_sc1-pad3_ net-_sc2-pad2_ net-_sc2-pad3_ ? sky130_fd_pr__nfet_01v8 W = 5.4 L = 0.18
xsc5 net-_sc2-pad3_ net-_sc5-pad2_ net-_sc4-pad1_ ? sky130_fd_pr__nfet_01v8 W = 5.4 L = 0.18
xsc4 net-_sc4-pad1_ net-_sc4-pad2_ net-_sc1-pad1_ ? sky130_fd_pr__nfet_01v8 W = 5.4 L = 0.18
xsc6 net-_sc6-pad1_ net-_sc1-pad1_ gnd ? sky130_fd_pr__nfet_01v8 W = 5.4 L = 0.18
xsc8 net-_sc10-pad1_ net-_sc6-pad1_ ? ? sky130_fd_pr__nfet_01v8 W = 5.4 L = 0.18
xsc9 ? net-_sc9-pad2_ net-_sc11-pad1_ ? sky130_fd_pr__nfet_01v8 W = 5.4 L = 0.18
xsc11 net-_sc11-pad1_ net-_sc1-pad1_ net-_sc11-pad3_ ? sky130_fd_pr__nfet_01v8 W = 5.4 L = 0.18
xsc12 net-_sc11-pad3_ net-_sc12-pad2_ net-_sc10-pad1_ ? sky130_fd_pr__nfet_01v8 W = 5.4 L = 0.18
xsc14 net-_sc13-pad1_ net-_sc10-pad1_ gnd ? sky130_fd_pr__nfet_01v8 W = 5.4 L = 0.18
.tran 15e-00 25e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
